US07700641B2
C. Synthesis of 1-(diphenylmethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-5-methyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2C, and making non-critical variations to replace 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with 1-(diphenylmethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-5-methyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained (84%) as a colorless solid: 1H NMR (300 MHz, CDCl3) δ 7.37-7.25 (m, 9H), 7.22-7.17 (m, 2H), 7.10 (s, 1H), 6.91 (s, 1H), 6.86 (d, 1H), 6.63 (s, 1H), 6.40 (s, 1H), 6.38 (d, 1H), 5.88 (ABq, 2H), 5.07 (s, 1H), 2.23 (s, 3H); MS (ES+) m/z 450.3 (M+1).

reactant | 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C20H19NO5
reactant | 1-(diphenylmethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-5-methyl-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC(=CC=C12)C)(C1=CC2=C(OCO2)C=C1O)O)=O)C1=CC=CC=C1 | C29H23NO5
product | 1-(diphenylmethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-5-methyl-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC(=CC=C12)C)C1=CC2=C(OCO2)C=C1O)=O)C1=CC=CC=C1 | C29H23NO4
